US07700589B2
61a) 1-(7-dimethylaminomethyl-1,2,4,5-tetrahydro-3-benzazepin-3-yl)-2,2,2-trifluoroethanone
11.7 mL (23.4 mmol) of a 2 M dimethylamine solution in THF were added to a solution of 4.5 g (16.59 mmol) 3-(2,2,2-trifluoro-acetyl)-2,3,4,5-tetrahydro-1H-3-benzazepine-7-carbaldehyde in 150 mL THF and the solution was adjusted to pH 5 with 1 mL glacial acetic acid. After 30 min 4.62 g (21.79 mmol) sodium triacetoxyborohydride were added and the reaction mixture was stirred overnight at RT. The reaction solution was carefully combined with saturated NaHCO3 solution, stirred for 30 min, exhaustively extracted with EtOAc, the organic phase was separated off and dried over Na2SO4. After the desiccant and solvent had been eliminated the desired product was obtained, which was further reacted without purification.

reactant | dimethylamine | 2 M | CNC | C2H7N
reactant | 3-(2,2,2-trifluoro-acetyl)-2,3,4,5-tetrahydro-1H-3-benzazepine-7-carbaldehyde | 16.59 mmol, 4.5 g | FC(C(=O)N1CCC2=C(CC1)C=CC(=C2)C=O)(F)F | C13H12F3NO2
reactant | sodium triacetoxyborohydride | 21.79 mmol, 4.62 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 1-(7-dimethylaminomethyl-1,2,4,5-tetrahydro-3-benzazepin-3-yl)-2,2,2-trifluoroethanone | CN(C)CC1=CC2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1 | C15H19F3N2O
